US06787029B2
Preparation of Benzenesulfonic Acid Surface Modified Polymer Bound Porous Carbon Based Particles (SP-4)
1.384 g of sulfanilic acid were mixed with 50 ml of deionized water in a beaker and heated to 60° C. 5 g of SP-3 particles were added to the mixture. 2.76 g of a 20% solution of sodium nitrite in water were added slowly, and the mixture was left to react for 90 minutes. The reaction mixture was filtered and the particles were reslurried and washed with a 1% NaOH solution in water. The particles were refiltered and washed with deionized water, and subsequently washed with ethanol and tetrahydrofuran. The particles were soxhlet extracted in ethanol overnight. The starting sulfur content of the particles was 0.39 wt %. After the surface modification the sulfur content was 1.39 wt % indicating the attachment of benzenesulfonic groups.

reactant | sulfanilic acid | 1.384 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | Benzenesulfonic Acid | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
